US07262212B2
A mixture of 5-(4-trifluoromethoxyphenyl)-3H-[1,3,4]oxadiazol-2-one (3.18 g, 12.92 mmol) prepared in Reference Example 49, (2-methyl-2-oxiranylmethyl) toluene-4-sulfonate (4.80 g, 19.38 mmol), potassium carbonate (2.14 g, 15.50 mmol) and sodium iodide (2.90 g, 19.38 mmol) in DMF (30 ml) was stirred at room temperature for 24 hours, and then at 60° C. for 4 hours. The reaction mixture was poured into water, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to afford 3-(2-methyl-2-oxiranylmethyl)-5-(4-trifluoromethoxyphenyl)-3H-[1,3,4]oxadiazol-2-one (2.37 g, yield 58%) as a colorless crystalline powder.

reactant | 5-(4-trifluoromethoxyphenyl)-3H-[1,3,4]oxadiazol-2-one | 12.92 mmol, 3.18 g | FC(OC1=CC=C(C=C1)C1=NNC(O1)=O)(F)F | C9H5F3N2O3
reactant | (2-methyl-2-oxiranylmethyl) toluene-4-sulfonate | 19.38 mmol, 4.80 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C)C | C11H14O4S
reactant | potassium carbonate | 15.50 mmol, 2.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 19.38 mmol, 2.90 g | [I-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2-methyl-2-oxiranylmethyl)-5-(4-trifluoromethoxyphenyl)-3H-[1,3,4]oxadiazol-2-one | 2.37 g, yield 58% | CC1(OC1)CN1C(OC(=N1)C1=CC=C(C=C1)OC(F)(F)F)=O | C13H11F3N2O4
